US09238644B2
(b) 2-(2-((Triethylsilyl)ethynyl)phenyl)propanamide (I14)
A mixture of 2-(2-iodophenyl)propanamide I13 (12.4 g, 45.2 mmol), ethynyltriethylsilane (9.72 mL, 54.2 mmol), PdCl2(PPh3)2 (0.634 g, 0.904 mmol), tri-tert-butylphosphonium tetrafluoroborate (0.262 g, 0.904 mmol) and CuI (0.172 g, 0.904 mmol) in DMF (46 mL) was stirred under a nitrogen atmosphere at 70° C. for 4 hours. The volatiles were removed in vacuo and the crude residue was purified by silica gel column chromatography (Combiflash Rf, 0-30% EtOAc in cyclohexane) to give the title compound I14 as an orange oil (8.9 g, 68%). LCMS-B: rt 3.845 min; m/z 288 [M+H]+.

reactant | 2-(2-iodophenyl)propanamide | IC1=C(C=CC=C1)C(C(=O)N)C | C9H10INO
reactant | ethynyltriethylsilane | 54.2 mmol, 9.72 mL | C(#C)[Si](CC)(CC)CC | C8H16Si
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.904 mmol, 0.262 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | 46 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.904 mmol, 0.634 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.904 mmol, 0.172 g | [Cu]I
product | 2-(2-((Triethylsilyl)ethynyl)phenyl)propanamide | C(C)[Si](CC)(CC)C#CC1=C(C=CC=C1)C(C(=O)N)C | C17H25NOSi
